US08076345B2
A) (R)-6-Benzyl-N-(1-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (5.00 g, 19.2 mmol), (R)-1-(6-(trifluoromethyl)pyridin-3-yl)ethanamine (4.76 g, 25.0 mmol), N,N-diisopropylethylamine (6.71 mL, 38.5 mmol), and acetonitrile (15 mL) were divided evenly between two 20 mL microwave vials. The reactions were subjected to microwave irradiation at 200° C. for 3.5 h. The two reactions were mixed together and evaporated the acetonitrile off. The residue was redissolved in CH2Cl2 (150 mL) and washed with 1M NaH2PO4 (2×50 mL). The product was extracted with 1M HCl (2×50 mL). The aqueous extracts were basified to pH 14 and extracted with CH2Cl2 (2×50 mL). The combined organic layers were dried with Na2SO4, filtered and evaporated to produce a yellow to orange solid (7.21 g). The crude product was washed with ether (25 mL) by stirring the solids for about 30 minutes. The solids were filtered from the ether and washed with ether (2×5 mL) to obtain a pale yellow powder (3.55 g, 45% yield). The ether filtrate was absorbed onto silica and purified by column with MeOH/CH2Cl2 (0-10%) to yield more product (2.38 g, 30% yield; 75% combined yield).

reactant | 6-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 19.2 mmol, 5.00 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
reactant | (R)-1-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | 25.0 mmol, 4.76 g | FC(C1=CC=C(C=N1)[C@@H](C)N)(F)F | C8H9F3N2
reactant | N,N-diisopropylethylamine | 38.5 mmol, 6.71 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (R)-6-Benzyl-N-(1-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 7.21 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2N[C@H](C)C=2C=NC(=CC2)C(F)(F)F)CC1 | C22H22F3N5
